US03975398
Preparation of 9-(β-Dimethylaminoethyl)-3-aminocarbazole
23.7 g. (0.1 mol) 9-(β-dimethylaminoethyl)-carbazole (prepared in the manner described by O. Eisleb, Ber. dtsch. chem. Ges., 74, 1433/1941) in 100 ml. glacial acetic acid were placed in a 500 ml. three-necked flask equipped with a stirrer, thermometer and dropping funnel and placed in an ice-bath. A solution of 8.28 ml. (0.2 mol) anhydrous nitric acid in 50 ml. glacial acetic acid was added dropwise thereto at 15° - 20°C. The reaction mixture was further stirred for an hour at 20° - 25°C. and then poured into 500 ml. ice-water. The precipitated green crystals were filtered off with suction, well washed with water and dried at 80°C. in a drying cabinet. There were obtained 32.4 g. (94% of theory) 9-(β-dimethylaminoethyl)-3-nitrocarbazole which melted, with decomposition, at 190°C.

reactant | 9-(β-dimethylaminoethyl)-carbazole | 0.1 mol | CN(CCN1C2=CC=CC=C2C=2C=CC=CC12)C | C16H18N2
reactant | nitric acid | 0.2 mol | [N+](=O)(O)[O-] | HNO3
reactant | 9-(β-dimethylaminoethyl)-3-nitrocarbazole | CN(CCN1C2=CC=CC=C2C=2C=C(C=CC12)[N+](=O)[O-])C | C16H17N3O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 9-(β-Dimethylaminoethyl)-3-aminocarbazole | CN(CCN1C2=CC=CC=C2C=2C=C(C=CC12)N)C | C16H19N3
